US05302718
Methyl 2-hydroxy-5-[[4-[(2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate
4-Iodo-N-(2-pyridinyl)benzenesulfonamide (35 g, 97 mmol) was dissolved in a mixture of triethylamine and tetrahydrofuran (750+750 ml). The mixture was deaerated with nitrogen and dichlorobis(triphenylphosphine)palladium (1.2 g, 1.7 mmol) and copper(I) iodide (0.6 g, 3.4 mmol) were added. Finally methyl 5-ethynyl-2-hydroxybenzoate (23 g, 130 mmol) was added. The mixture was heated to 60° C. for 4 h, evaporated to dryness. The residue was dissolved in chloroform (1000 ml) and washed with water (3×200 ml) and dried with MgSO4. The solvent was evaporated in vacuo. Yield 31 g (77%). The product can be purified by flash-chromatography on silica with chloroform as the eluent.

reactant | 4-Iodo-N-(2-pyridinyl)benzenesulfonamide | 97 mmol, 35 g | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C11H9IN2O2S
reactant | methyl 5-ethynyl-2-hydroxybenzoate | 130 mmol, 23 g | C(#C)C=1C=CC(=C(C(=O)OC)C1)O | C10H8O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 1.7 mmol, 1.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 3.4 mmol, 0.6 g | [Cu]I
product | Methyl 2-hydroxy-5-[[4-[(2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate | OC1=C(C(=O)OC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C21H16N2O5S
